US08048881B2
41.1. 4-benzoyl-piperazine-1-carboxylic acid benzyl ester
Piperazine-1-carboxylic acid benzyl ester (500 mg) was dissolved in DCM (5 ml) and the mixture was cooled down to 0° C. Benzoyl chloride (290 μl) and NEt3 (379 μl) were added. The mixture was stirred for 48 h, diluted with DCM, washed with water, dried (Na2SO4) and evaporated off. After HV, 650 mg of the desired compound were obtained.

reactant | Piperazine-1-carboxylic acid benzyl ester | 500 mg | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | Benzoyl chloride | 290 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NEt3 | 379 μl | CCN(CC)CC | C6H15N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-benzoyl-piperazine-1-carboxylic acid benzyl ester | 650 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C1=CC=CC=C1)=O | C19H20N2O3
